US07544697B2
A modification of the method described in Part E of Examples 1-4 was used to treat 5-(4-hydroxybutyl)-1-methyl-1H-pyrazole-3-carboxamide (42.9 g, 218 mmol) with phosphorous oxychloride (130 mL). The reaction was heated for two hours at 90° C. before cooling to 0° C. and pouring into ice water. The mixture was adjusted to pH 12 with the addition of 2 N aqueous sodium carbonate and 50% aqueous sodium hydroxide. The mixture was extracted with chloroform. The combined extracts were passed through a layer of silica gel (eluting first with chloroform and then with ethyl acetate to provide 23.0 g of 5-(4-chlorobutyl)-1-methyl-1H-pyrazole-3-carbonitrile as a dark oil that was used in the next step without further purification.

reactant | 5-(4-hydroxybutyl)-1-methyl-1H-pyrazole-3-carboxamide | 218 mmol, 42.9 g | OCCCCC1=CC(=NN1C)C(=O)N | C9H15N3O2
reactant | sodium carbonate | 2 N | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phosphorous oxychloride | 130 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-(4-chlorobutyl)-1-methyl-1H-pyrazole-3-carbonitrile | 23.0 g | ClCCCCC1=CC(=NN1C)C#N | C9H12ClN3
